US06894042B2
Methyl 2-formyl-1-benzofuran-6-carboxylate (750 mg, 3.67 mmol) is dissolved in anhydrous THF (30 ml) in a dry flask under nitrogen and cooled to 0° C. Methyl magnesium bromide (2.6 ml, 3.67 mmol) is added via syringe, and the reaction is stirred overnight, allowing the ice bath to expire. The reaction is quenched with 5% HCl (70 ml) and extracted with CH2Cl2 (3×25 ml). The combined organics are dried (MgSO4), filtered, and concentrated to a yellow oil. The crude material is chromatographed over 100 g slurry-packed silica gel, eluting with 35% EtOAc/hexane. The appropriate fractions are collected and concentrated to afford 412 mg (51%) of methyl 2-(1-hydroxyethyl)-1-benzofuran-6-carboxylate as a yellow oil that solidified upon standing. MS for C12H12O4, (EI) m/z: 220 (M)+.

reactant | Methyl 2-formyl-1-benzofuran-6-carboxylate | 3.67 mmol, 750 mg | C(=O)C=1OC2=C(C1)C=CC(=C2)C(=O)OC | C11H8O4
reactant | Methyl magnesium bromide | 3.67 mmol, 2.6 ml | C[Mg]Br
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | methyl 2-(1-hydroxyethyl)-1-benzofuran-6-carboxylate | 412 mg, 51% | OC(C)C=1OC2=C(C1)C=CC(=C2)C(=O)OC | C12H12O4
